Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Mouth pain
 
Major Surgical or Invasive Procedure:
Intraoral I&D of subperiosteal abscess 

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
 Mr ___ is a ___ with no
PMH presenting with dental pain and facial swelling. Patient has
been experiencing dental pain for the past couple days. She woke
up this morning with facial swelling on the left side with
increased pain in the back of her mouth. Denies any fevers or
chills prior to ED arrival, trouble breathing, difficulty
swallowing, sore throat.  She does endorse nausea without 
emesis.
Was seen at ___ today and diagnosed with a facial
abscess, given IV clindamycin and ___ transferred to the BI. 

In the ED, initial vitals were: 98.4 90 127/76 17 98% RA.  Exam
was notable for poor dentition, L molar TTP, L mandible 
swelling,
no uvula deviation.  Labs were notable for WBC 13.5, crit 32.4,
bicarb 16.  Pt was given clindamycin, augmentin, Tylenol, 
Zofran,
ketorolac and 1 LNS.  Pt was seen by OMFS and I&D performed.  Pt
was subsequently tachycardic, febrile and lethargic. Blood cxs
were sent.
 
On the floor, pt is sleepy.  No complaints other than L facial
pain.  nausea has resolved.

Review of systems:
(+) Per HPI
(-) Denies chills, night sweats, recent weight loss or gain.
Denies headache, sinus tenderness, rhinorrhea or congestion.
Denies cough, shortness of breath. Denies chest pain or
tightness, palpitations. Denies vomiting, diarrhea, constipation
or abdominal pain. No recent change in bowel or bladder habits.
No dysuria. Denies arthralgias or myalgias. 10 pt ros otherwise
negative.

 
Past Medical History:
none
 
Social History:
___
Family History:
Patient denies ___
 
Physical Exam:
Admission exam:

Vitals: 97.5 PO 109 / 59 R Lying 89 18 97 RA 
Constitutional: sleepy, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENMT: L-sided facial swelling, indurated and TTP without
superficial errythema.  Dried blood in oral cavity.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes,
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: multiple tattoos, no rashes or lesions 

Discharge exam:
___ 0738 Temp: 97.6 PO BP: 116/66 HR: 85 RR: 18 O2 sat: 98%
O2 delivery: RA 
Constitutional: Sitting up in bed. Comfortable appearing. In 
NAD. Speaking in full sentences.
EYES: Sclera anicteric,  EOMI, PERRL
ENMT: L-sided facial swelling, indurated and TTP without
superficial erythema.  Dried blood in oral cavity. Poor 
dentition.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes,
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aox3 CNII-XII and strength grossly intact 
SKIN: Multiple tattoos, no rashes or lesions 
 
Pertinent Results:
Admission labs:
___ 08:54PM   LACTATE-1.3
___ 08:50PM   ___ TEMP-38.8 PO2-87 PCO2-32* PH-7.42 
TOTAL CO2-21 BASE XS--2 INTUBATED-NOT INTUBA
___ 08:35PM   GLUCOSE-126* UREA N-10 CREAT-0.7 SODIUM-136 
POTASSIUM-3.8 CHLORIDE-106 TOTAL CO2-16* ANION GAP-14
___ 08:35PM   estGFR-Using this
___ 08:35PM   WBC-13.5* RBC-3.55* HGB-10.6* HCT-32.4* 
MCV-91 MCH-29.9 MCHC-32.7 RDW-14.0 RDWSD-47.2*
___ 08:35PM   NEUTS-90.3* LYMPHS-7.5* MONOS-0.8* EOS-0.4* 
BASOS-0.3 IM ___ AbsNeut-12.16* AbsLymp-1.01* 
AbsMono-0.11* AbsEos-0.05 AbsBaso-0.04
___ 08:35PM   PLT COUNT-208

Other labs:
___ 07:04AM BLOOD Calcium-8.2* Phos-3.6 Mg-2.0 Iron-10*
___ 07:04AM BLOOD calTIBC-218* Ferritn-126 TRF-168*

Imaging studies:

STUDIES
CT face at OSH (___)
Left facial cellulitis, with suspected subperiosteal abscess
along the lateral left mandible, measuring up to 2 cm
craniocaudal. No clear periapical lucencies, although multiple
dental caries are present.

Discharge labs:
___ 09:35AM BLOOD WBC-9.9 RBC-3.74* Hgb-11.0* Hct-34.1 
MCV-91 MCH-29.4 MCHC-32.3 RDW-13.7 RDWSD-45.8 Plt ___ with no PMH  who presented with a dental abscess.

#Subperiosteal dental abscess s/p intraoral I&D ___
# Leukocytosis: s/p I&D in ED by ___.  Clinically stable and
non-toxic appearing although she did become tachycardic in the
ED.  L-side of face with ongoing induration, suspect edema given
abscess was recently drained and wick in. She was initially 
given clinda and unasyn at the OSH, transitioned to unasyn while 
inpatient and discharged with plan for an additional 7 days of  
augmentin.
Her WBC peaked at 18.6, and normalized on the day of discharge. 
She had no further episodes of vital sign abnormalities after 
admission.
Of note, patient was recommended to follow up with OMFS at the 
___ dental clinic at 1pm on the day of discharge for wick removal 
and tooth extraction, however the patient (mostly at the 
insistence of her father) stated he preferred to seek dental 
care and surgical/OMFS follow up with ___ providers (more on 
this below)

#Family dissatisfaction with care:
Moments before discharge patients father arrived from ___ 
expressing his dissatisfaction with the patients care, stating 
that he felt that we were "throwing her out into the street" by 
not completing her tooth extraction during this hospital stay 
(although patient was to be seen locally in ___ on the day of 
discharge with explicit printed instruction/map and transport 
fare provided by ___). I attempted to explain the rational of the 
___ providers; that no such adequate dental facilities were 
available on campus and patient did not require formal OR level 
intervention. I offered to have the patient/father speak 
directly with OMFS regarding their concerns, which he declined 
stating that his "mind was made up" to take her to ___ for 
further evaluation.

#Anemia: unclear ___, no e/o active bleeding other than 
oropharyngeal which is relatively mild. Hgb remained stable on 
trending.  Labs suggestive of
possible mixed AOCD (likely iso infection) and Fe DefN. Pt 
states
she has a IUD and has not menstruated in years. 

# c/f acidosis: bicarb low however gas wnl and lactate WNL.  Low
bicarb likely spurious. Resolved with trending.

Transitional Issues:
[  ] Pt needs urgent tooth extraction as well as wick removal 
for source control - pts/father declined the proposed local, 
same-day follow-up plan with ___ providers, stating he wished to 
seek follow-up care with ___
[  ] PCP ___
[  ] Needs to establish a dentist to encourage regular 
preventive oral hygine
[  ] Tobacco/cannabis cessation
[  ] Concern that pts father may not have pts best medical 
interests in mind  and appears to be dictating her care
[  ] Consider add'l workup for  very mild ___ of Fe 
repletion

>30 minutes were spent in discharge planning and coordination of 
care on the day of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every 6 hours Disp 
#*28 Tablet Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 7 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth Twice daily Disp #*14 Tablet Refills:*0 
3.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
Duration: 7 Days 
RX *chlorhexidine gluconate [Peridex] 0.12 %  Twice daily 
Refills:*0 
4.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth Every 6 hours Disp 
#*28 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Subperiosteal abscess s/p intraoral I&D

 
Discharge Condition:
Stable

 
Discharge Instructions:
You came to the hospital for evaluation of tooth pain and were 
found to have a dental abscess. You were seen by the oral 
surgeons who incised and drained the area and placed a wick. You 
were started on antibiotics by mouth and transitioned to IV 
antibiotics and admitted to the hospital.
You should continue to take antibiotics for an additional 7 
days. For pain you can alternate Tylenol and ibuprofen every six 
hours as needed.
You improved and were discharged 24 hours later with plan to 
follow up with the oral surgeons on the day of discharge at 
___ for extraction and wick removal:

Where: ___, ___, ___ 
___
When: ___ at 1:00pm 

It is very important that you attend this appointment. The 
surgeons are expecting you between 1 and 2 pm today. If you miss 
this appointment you are at risk of developing worsening 
infection that may requiring a more serious procedure in an 
operating room.

For your providers at ___:

Abx pt received:
IV clindamycin and Unasyn  (___) at St. ___
IV Unasyn (___) at ___
 
Followup Instructions:
___